US05900213
N,N-diethyl-N'-octylethylenediamine
A mixture of N,N-diethylethylenediamine (9.6 g, 0.0826 mol) and 8.4 g (0.0826 mol) of triethylamine in 40 ml of chloroform was added dropwise to the ice cold chloroform solution (40 ml) of octanoyl chloride (13.4 g, 0.0826 mol). After addition, the ice bath was removed and the solution was stirred for 5 hours at room temperature. The reaction mixture was stirred with aqueous sodium bicarbonate for one hour. The organic layer was then dried over magnesium sulfate leaving a yellow liquid which was concentrated in vacuo. The yellow liquid was subject to high vacuum distillation to yield 9.65 g (0.040 mol, 48.3%, b.p.0.05mm =115° C.). The above amide (9.65 g, 0.040 mol) was reduced with lithium aluminum hydride (1.7 g, 0.045 mol) to yield 6.94 g (0.030 mol, 76.1%) of the product after vacuum distillation: (b.p.0.05mm =77° C.). NMR (CDCl3) δ 2.7-2.4 (m, 10H, NCH2 and NHCH2), 1.6 (s, 1H, NH), 1.5 (m, 2H, NHCH2CH2), 1.28 (s, 10H, NHCH2CH2 (CH2)5), 1.01 (t, 6H, NCH2CH3), 0.88 (t, 3H, CH3). Elemental Analysis: Caled. for C14H32N2 (228.41): C, 73.61; H, 14.12; N, 12.26. Found: C, 73.68; H, 14.76; N, 12.12.

reactant | N,N-diethylethylenediamine | 0.0826 mol, 9.6 g | C(C)N(CCN)CC | C6H16N2
reactant | triethylamine | 0.0826 mol, 8.4 g | C(C)N(CC)CC | C6H15N
reactant | octanoyl chloride | 0.0826 mol, 13.4 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | lithium aluminum hydride | 0.045 mol, 1.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl-N'-octylethylenediamine | 0.030 mol, 6.94 g, 76.1% | C(C)N(CCNCCCCCCCC)CC | C14H32N2
